US07834030B2
To a solution of 315 mg of 2-difluoromethoxy-N-hydroxy-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-benzamidine in 6.5 mL of tetrahydrofuran at 0° C. was added 1.5 mL of N,N-diisopropylethylamine followed by 0.08 mL of phenyl chloroformate. The resulting mixture was stirred for 5 minutes at 0° C. then poured into water and extracted with dichloromethane. The organic extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was dissolved 6.5 mL of tetrahydrofuran and 0.3 mL of N,N-diisopropylethylamine. The resulting solution was heated in a sealed tube to 150° C. under microwave irradiation for 15 minutes. After allowing it to cool down to room temperature, the mixture was poured into water and extracted with dichloromethane. The organic extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (diisopropyl ether 100 followed by a gradient from dichloromethane 100 to dichloromethane 90/methanol 10) to give 31 mg of 3-(2-difluoromethoxy-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-phenyl)-4H-1,2,4-oxadiazol-5-one.

reactant | 2-difluoromethoxy-N-hydroxy-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-benzamidine | 315 mg | FC(OC1=C(C(=N)NO)C=CC(=C1)OC(CC)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)F | C22H20F5N3O3S
reactant | N,N-diisopropylethylamine | 1.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phenyl chloroformate | 0.08 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 6.5 mL | O1CCCC1 | C4H8O
product | 3-(2-difluoromethoxy-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-phenyl)-4H-1,2,4-oxadiazol-5-one | 31 mg | FC(OC1=C(C=CC(=C1)OC(CC)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C1=NOC(N1)=O)F | C23H18F5N3O4S
